US08097759B2
N-[3,5-Bis(trifluoromethyl)phenyl]-2-hydroxy-5-[(3-phenyl)-thioureido]benzamide (Compound No. 92)
Using 5-amino-N-[3,5-bis(trifluoromethyl)phenyl]-2-hydroxybenzamide and phenylisothiocyanate as the raw materials, the same operation as the example 92 gave the title compound.

reactant | 5-amino-N-[3,5-bis(trifluoromethyl)phenyl]-2-hydroxybenzamide | NC=1C=CC(=C(C(=O)NC2=CC(=CC(=C2)C(F)(F)F)C(F)(F)F)C1)O | C15H10F6N2O2
reactant | phenylisothiocyanate | C1(=CC=CC=C1)N=C=S | C7H5NS
product | N-[3,5-Bis(trifluoromethyl)phenyl]-2-hydroxy-5-[(3-phenyl)-thioureido]benzamide | Yield: 66.3% | FC(C=1C=C(C=C(C1)C(F)(F)F)NC(C1=C(C=CC(=C1)NC(=S)NC1=CC=CC=C1)O)=O)(F)F | C22H15F6N3O2S
